US09193724B2
A mixture of crude 3-bromo-4-cyclopropyl-5-fluoro-4H-pyridine-1-carboxylic acid phenyl ester (A; 7.5 g, 0.022 mol) and sulphur (0.71 g, 0.022 mol) were heated at reflux in DECALIN (25 mL) for a period of 3 h and then cooled to RT. The reaction mixture was purified by silica gel column chromatography, eluting first with hexane and then with a 2-5% ethyl acetate-hexane gradient to afford 3-bromo-4-cyclopropyl-5-fluoro-pyridine. 1H NMR (400 MHz, DMSO-d6) δ 8.54 (s, 1H), 8.42 (s, 1H), 1.98-1.94 (m, 1H), 1.11-1.09 (m, 2H), 0.99-0.98 (m, 2H). MS (M+1): 217.1.

reactant | 3-bromo-4-cyclopropyl-5-fluoro-4H-pyridine-1-carboxylic acid phenyl ester | C1(=CC=CC=C1)OC(=O)N1C=C(C(C(=C1)F)C1CC1)Br | C15H13BrFNO2
reactant | sulphur | 0.022 mol, 0.71 g | [S] | S
solvent | DECALIN | 25 mL | C1CCCC2CCCCC12 | C10H18
product | 3-bromo-4-cyclopropyl-5-fluoro-pyridine | BrC=1C=NC=C(C1C1CC1)F | C8H7BrFN
